US08309580B2
3-[(4-{cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methoxy}benzoyl)(methyl)amino]propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-{cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methoxy}benzoic acid (235 mg) as well as ethyl 3-(methylamino)propanoate (86 mg) to give the title compound (267 mg, 95%) as an amorphous compound.

reactant | 4-{cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methoxy}benzoic acid | 235 mg | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(OC(=C1)C1=C(C=C(C=C1)F)F)C | C25H24F2O4
reactant | ethyl 3-(methylamino)propanoate | 86 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-[(4-{cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methoxy}benzoyl)(methyl)amino]propanoic acid | 267 mg, 95% | C1(CCCCC1)C(OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=C(OC(=C1)C1=C(C=C(C=C1)F)F)C | C29H31F2NO5
